US05969184
a) Pyridine-4-carboxaldehyde (3-Chloropropyl)imine
To 3-chloropropylamine HCl (15.1 g, 0.120 moles (hereinafter mol)) and H2O (100 mL) was added pyridine-4-carboxaldehyde (9.55 mL, 0.100 mol), then K2CO3 (8.28 g, 0.060 mol) then CH2Cl2 (100 mL) and the mixture was stirred for 40 min. The phases were separated and the aq phase was extracted with additional CH2Cl2 (2×50 mL), dried (Na2SO4) and concentrated to afford 17.1 g (94%) 1H NMR (CD3Cl): d 8.69 (d, J=4.5 Hz, 2H, 8.32 (s, 1H), 8.28 (s, 1H), 7.58 (d, J=4.5 Hz, 2H), 3.71 (m, 2H), 3.63 (t, J=6 Hz, 2H), 2.24 (t, J=6Hz, 2H). The presence of 9% of the aldehyde was evident by 1H NMR.

reactant | 3-chloropropylamine HCl | 0.120 moles, 15.1 g | Cl.ClCCCN
reactant | H2O | 100 mL | O | H2O
reactant | pyridine-4-carboxaldehyde | 0.100 mol, 9.55 mL | N1=CC=C(C=C1)C=O | C6H5NO
reactant | K2CO3 | 0.060 mol, 8.28 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Pyridine-4-carboxaldehyde (3-Chloropropyl)imine | ClCCCN=CC1=CC=NC=C1 | C9H11ClN2
